US08937091B2
1-bromo-6-acryloylnaphthalene 8187
1-bromonaphthalene (0.42 g), acryloyl chloride (0.31 g), and aluminium chloride (0.27 g) were treated in the same manner as described in Example 1 to obtain the title compound (22 mg).

reactant | 1-bromonaphthalene | 0.42 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | acryloyl chloride | 0.31 g | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 0.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-bromo-6-acryloylnaphthalene | 22 mg | BrC1=CC=CC2=CC(=CC=C12)C(C=C)=O | C13H9BrO
